US05175157
3-[(N-(2-(3,4-Dimethoxy-phenyl)-ethyl)-hexahydro-azepin-3-yl)-methyl]-7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine-hydrochloride
Prepared from 7,8-dimethoxy-1,3,4,5-tetrahydro-2-oxo-3-benzazepine and N-[2-(3,4-dimethoxy-phenyl)-ethyl]-3-chloromethyl-hexahydro-azepine analogously to Example 2.

reactant | 7,8-dimethoxy-1,3,4,5-tetrahydro-2-oxo-3-benzazepine | COC1=CC2=C(CC(NCC2)=O)C=C1OC | C12H15NO3
reactant | N-[2-(3,4-dimethoxy-phenyl)-ethyl]-3-chloromethyl-hexahydro-azepine | COC=1C=C(C=CC1OC)CCN1CC(CCCC1)CCl | C17H26ClNO2
product | 3-[(N-(2-(3,4-Dimethoxy-phenyl)-ethyl)-hexahydro-azepin-3-yl)-methyl]-7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine-hydrochloride | Cl.COC=1C=C(C=CC1OC)CCN1CC(CCCC1)CN1CCC2=C(CC1=O)C=C(C(=C2)OC)OC | InChI=1S/C29H40N2O5.ClH/c1-33-25-9-8-21(15-26(25)34-2)10-13-30-12-6-5-7-22(19-30)20-31-14-11-23-16-27(35-3)28(36-4)17-24(23)18-29(31)32;/h8-9,15-17,22H,5-7,10-14,18-20H2,1-4H3;1H
